US08084485B2
A mixture of 6-nitro-1H-indazole (50 g, 0.307 mol), 3-methoxypropyl methanesulfonate (54.3 g, 0.323 mol) and K2CO3 (127 g, 0.921 mol) in CH3CN (1.5 L) was heated at 60° C. overnight. Water (1 L) was added and the CH3CN was removed under reduced pressure and the aqueous residue was extracted with EtOAc (3×500 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel to give 1-(3-methoxypropyl)-6-nitro-1H-indazole (33 g, 46% yield). 1H NMR (400 MHz, CDCl3): δ8.47 (s, 1H), 8.13 (s, 1H), 8.01-7.99 (dd, J=8.8, 2.0 Hz, 1H), 7.83-7.81 (d, J=8.8 Hz, 1H), 4.61-4.57 (t, J=6.4 Hz, 2H), 3.29 (s, 3H), 3.26-3.23 (t, J=5.6 Hz, 2H), 2.23-2.17 (m, 2H).

reactant | 6-nitro-1H-indazole | 0.307 mol, 50 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | 3-methoxypropyl methanesulfonate | 0.323 mol, 54.3 g | CS(=O)(=O)OCCCOC | C5H12O4S
reactant | K2CO3 | 0.921 mol, 127 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 1 L | O | H2O
solvent | CH3CN | 1.5 L | CC#N | C2H3N
product | 1-(3-methoxypropyl)-6-nitro-1H-indazole | 33 g, 46% yield | COCCCN1N=CC2=CC=C(C=C12)[N+](=O)[O-] | C11H13N3O3
